US06214992B1
a) 7-Benzyl-3-phenylxanthine
A solution of 0.53 g (13.2 mmol) of sodium hydroxide in 5.3 ml of water was added to a suspension of 3.0 g (13.2 mmol) of 3-phenylxanthine in 18 ml of methanol and the mixture was stirred at 70° C. for 1 hour. It was then treated dropwise with 1.56 ml (13.2 mmol) of benzyl bromide and stirred at 70° C. for 7 hours, the precipitate was filtered off with suction after cooling, washed with water and dissolved in 50 ml of 1 N sodium hydroxide solution, insoluble matter was filtered off and the solution was adjusted to pH 8-9 using 4 N hydrochloric acid. The resulting precipitate was filtered off with suction, washed with water and purified by flash chromatography on a silica gel column, dichloromethane/methanol (79/1).

reactant | sodium hydroxide | 13.2 mmol, 0.53 g | [OH-].[Na+]
reactant | 3-phenylxanthine | 13.2 mmol, 3.0 g | C1(=CC=CC=C1)N1C(NC(C=2NC=NC12)=O)=O | C11H8N4O2
reactant | benzyl bromide | 13.2 mmol, 1.56 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 5.3 ml | O | H2O
solvent | methanol | 18 ml | CO | CH4O
product | 7-Benzyl-3-phenylxanthine | C(C1=CC=CC=C1)N1C=NC=2N(C(NC(C12)=O)=O)C1=CC=CC=C1 | C18H14N4O2
